US09212168B2
(a) 4-Bromo-2-chloro-5-trifluoromethoxy-benzoic acid
To a mixture of 4-bromo-2-chloro-5-trifluoromethoxy-benzoic acid methyl ester (1.0 g, 3.0 mmol, Preparation 48) dissolved in methanol (4 mL) and water (4 mL) was added lithium hydroxide (360 mg, 15 mmol). The reaction mixture was stirred at 60° C. for 1 h and concentrated. The reaction mixture was adjusted to acidic pH with 1 N HCl, dissolved in EtOAc (60 mL) and washed with water (60 mL). The aqueous layer was extracted with EtOAc (60 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated to produce the title intermediate (966 mg, 100% yield) as a white powder.

reactant | 4-bromo-2-chloro-5-trifluoromethoxy-benzoic acid methyl ester | 3.0 mmol, 1.0 g | COC(C1=C(C=C(C(=C1)OC(F)(F)F)Br)Cl)=O | C9H5BrClF3O3
reactant | water | 4 mL | O | H2O
reactant | lithium hydroxide | 15 mmol, 360 mg | [OH-].[Li+]
solvent | methanol | 4 mL | CO | CH4O
product | 4-Bromo-2-chloro-5-trifluoromethoxy-benzoic acid | 966 mg, 100% yield | BrC1=CC(=C(C(=O)O)C=C1OC(F)(F)F)Cl | C8H3BrClF3O3
